US07582769B2
1-(4-Methyl-cyclohexyl)-3-(5-methyl-thiazol-2-yl)-1-(4-oxo-cyclohexyl)-urea
A solution of 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-1-(4-methyl-cyclohexyl)-3-(5-methyl-thiazol-2-yl)-urea (100 mg, 0.25 mmol) in 80% aqueous acetic acid (1.15 mL) was heated at 60° C. for 3½ h. The reaction mixture was evaporated to dryness in vacuo to give a golden oil. The crude product was purified by HPLC to give the title compound.

reactant | 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-1-(4-methyl-cyclohexyl)-3-(5-methyl-thiazol-2-yl)-urea | 0.25 mmol, 100 mg | O1CCOC12CCC(CC2)N(C(=O)NC=2SC(=CN2)C)C2CCC(CC2)C | C20H31N3O3S
solvent | acetic acid | 1.15 mL | C(C)(=O)O | C2H4O2
product | 1-(4-Methyl-cyclohexyl)-3-(5-methyl-thiazol-2-yl)-1-(4-oxo-cyclohexyl)-urea | CC1CCC(CC1)N(C(=O)NC=1SC(=CN1)C)C1CCC(CC1)=O | C18H27N3O2S
